US07951963B2
To acetone (600 mL) solution of 300 g of 5-bromo-2,3-dihydro-1-benzothiophen-3-ol was added 12.4 g of p-toluenesulfonic acid monohydrate, which was then refluxed for 2 hours. To the reaction solution was added 15.0 g of activated carbon, which was then stirred. Insoluble matter was filtered off and washed with 300 mL of acetone. The filtrate and washings were combined, to which was dropwise added 2700 mL of water at 5 to 15° C. The precipitate was collected by filtration to provide 268 g of 5-bromo-1-benzothiophene as pale purple solid form.

reactant | 5-bromo-2,3-dihydro-1-benzothiophen-3-ol | 300 g | BrC=1C=CC2=C(C(CS2)O)C1 | C8H7BrOS
reactant | p-toluenesulfonic acid monohydrate | 12.4 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone | 600 mL | CC(=O)C | C3H6O
product | 5-bromo-1-benzothiophene | 268 g | BrC=1C=CC2=C(C=CS2)C1 | C8H5BrS
